US04767766
A suspension of 7.15 g (0.026 mole) of 2-(3-methoxybenzylthio)nicotinic acid in 75 ml of dry acetonitrile was treated with 3.95 g (0.026 mole) of 1,8-diazabicyclo[5,4,0]-under-7-ene (DBU). A solution formed and 4.26 g (0.030 mole) of methyl iodide was added over one minute. After keeping the reaction mixture at room temperature for 24 hours, the solution was evaporated in vacuo. The residue was partitioned between 100 ml of ether and 50 ml of water. The ether layer was washed with 50 ml of H2O, dried, and evaporated to a small volume. The addition of hexane with cooling yielded 6.9 g (92% of theory) of methyl 2-(3-methoxybenzylthio)nicotinate; m.p. 69°-70° C.

reactant | 2-(3-methoxybenzylthio)nicotinic acid | 0.026 mole, 7.15 g | COC=1C=C(CSC2=C(C(=O)O)C=CC=N2)C=CC1 | C14H13NO3S
reactant | methyl iodide | 0.030 mole, 4.26 g | CI | CH3I
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | methyl 2-(3-methoxybenzylthio)nicotinate | 6.9 g, 92% | COC=1C=C(CSC2=C(C(=O)OC)C=CC=N2)C=CC1 | C15H15NO3S
